US04920116
2-(Diethylamino)-1-(naphthalen-1-yl)ethanone
To a solution of 38.1 g (0.52 mol) of diethylamine in 80 mL of toluene and cooled in an ice bath to 0° C. add dropwise a solution of 65.0 g (0.26 mol) of 2-bromoacetonaphthone in 300 mL of toluene. Stir the reaction mixture overnight. Monitor the progress of the reaction by thin-layer chromatography on silica gel (ethyl acetate:hexane, 1:1). Extract the reaction mixture with 3×150 mL of 3N HCl. Adjust the pH of the combined aqueous layers to pH=10 with 50% sodium hydroxide then extract with 3×150 mL of methylene chloride. Combine the extracts and dry over sodium sulfate. Remove the solvent in vacuo, and chromatograph the resultant oil on 2200 g of silica gel, eluting initially with methylene chloride and later with ethyl acetate. Combine the fractions containing product and remove the solvent in vacuo to obtain the title compound.

reactant | diethylamine | 0.52 mol, 38.1 g | C(C)NCC | C4H11N
reactant | 2-bromoacetonaphthone | 0.26 mol, 65.0 g | BrCC(=O)C1=CC=CC2=CC=CC=C12 | C12H9BrO
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(Diethylamino)-1-(naphthalen-1-yl)ethanone | C(C)N(CC(=O)C1=CC=CC2=CC=CC=C12)CC | C16H19NO
